US07863291B2
Ethyl 5-chlorothiazolo[5,4-d]pyrimidin-2-ylcarbamate (250 mg, 0.966 mmol) was suspended in MeOH (10 mL) and a 25% (w/w) solution of sodium methoxide in methanol was added (10 mL, 46.3 mmol). The resulting solution was refluxed overnight, cooled to ambient temperature, poured into an equal volume of water and extracted with chloroform (4×). A significant amount of compound was still present in the aqueous phase, so this was concentrated to residue, and then dissolved in a small amount of 1N HCl (not enough to make the resulting solution acidic) and extracted again with EtOAc (5×). The combined organics were washed with brine, dried over sodium sulfate, filtered and concentrated in vacuo. 5-Methoxythiazolo[5,4-d]pyrimidin-2-amine (144 mg, 0.790 mmol, 82% yield) was thus obtained as a white solid. 1H NMR (400 MHz, DMSO-d6) δ ppm 8.43 (s, 1H) 7.81 (s, 2H) 3.90 (s, 3H). MS (LC/MS) R.T.=0.73; [M+H]+=183.03.

reactant | Ethyl 5-chlorothiazolo[5,4-d]pyrimidin-2-ylcarbamate | 0.966 mmol, 250 mg | ClC=1N=CC2=C(N1)SC(=N2)NC(OCC)=O | C8H7ClN4O2S
reactant | sodium methoxide | C[O-].[Na+]
reactant | water | O | H2O
solvent | MeOH | 10 mL | CO | CH4O
product | 5-Methoxythiazolo[5,4-d]pyrimidin-2-amine | 0.790 mmol, 144 mg, 82% yield | COC=1N=CC2=C(N1)SC(=N2)N | C6H6N4OS
